US09029374B2
2-(2,5-dioxopyrrolidin-1-yl)-1,1,3,3-tetramethylisouronium tetrafluoroborate (2.134 g, 7.09 mmol), was added in one portion to a stirred solution of 8-(1-((3,5-difluorophenyl)(methyl)amino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (2.1 g, 4.73 mmol) and N-ethyl-N-isopropylpropan-2-amine (1.646 mL, 9.45 mmol) in DCM (20 mL) at RT and stirred at RT for 90 mins. Dimethylamine (4.73 mL, 9.45 mmol) was then added and the reaction mixture was stirred at RT for 30 min. Water and DCM were added, the organic phase was washed with brine, dried over magnesium sulfate and concentrated. The crude product was purified by flash chromatography on silica gel eluting with DCM/MeCN (1:1) then 0 to 10% MeOH in DCM. The solvent was evaporated to dryness to afford a foam which crystallised from ethyl acetate (10 mL). Ether (10 mL) was added to complete the crytallisation and the white solid was collected by filtration and dried to give 8-(1-((3,5-difluorophenyl)(methyl)amino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (1.65 g, 74%). Mass Spectrum: M+H+ 472. NMR Spectrum (DMSOd6): 1.55 (d, 3H), 2.63 (s, 3H), 2.92 (bs, 3H), 3.01 (bs, 3H), 3.21-3.29 (m, 2H), 3.31-3.39 (m partially hidden by H2O, 2H), 3.41-3.49 (m, 2H), 3.49-3.57 (m, 2H), 5.55 (s, 1H), 5.58 (q, 1H), 6.40 (t, 1H), 6.53 (d, 2H), 7.70 (d, 1H), 7.89 (d, 1H).

reactant | 2-(2,5-dioxopyrrolidin-1-yl)-1,1,3,3-tetramethylisouronium tetrafluoroborate | 7.09 mmol, 2.134 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | 8-(1-((3,5-difluorophenyl)(methyl)amino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 4.73 mmol, 2.1 g | FC=1C=C(C=C(C1)F)N(C(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O)C | C23H22F2N2O5
reactant | N-ethyl-N-isopropylpropan-2-amine | 9.45 mmol, 1.646 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | Dimethylamine | 9.45 mmol, 4.73 mL | CNC | C2H7N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 8-(1-((3,5-difluorophenyl)(methyl)amino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 1.65 g, 74% | FC=1C=C(C=C(C1)F)N(C(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C)C | C25H27F2N3O4
